US04844835
27.6 g of p-hydroxybenzoic acid and 39.0 g of (R)-2-octanol were refluxed for 10 hours in 300 ml of benzene in the presence of 0.5 ml of conc. sulfuric acid. Then, the reaction solution was cooled to the room temperature, and then concentrated and purified by column chromatography, to obtain 21.5 g of p-hydroxybenzoic acid 1-methylheptyl ester. (yield: 43%)

reactant | p-hydroxybenzoic acid | 27.6 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | (R)-2-octanol | 39.0 g | C[C@H](CCCCCC)O | C8H18O
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | p-hydroxybenzoic acid 1-methylheptyl ester | 21.5 g, yield: 43% | CC(CCCCCC)OC(C1=CC=C(C=C1)O)=O | C15H22O3
